US07557244B2
A mixture of (3-benzyloxy-5-trifluoromethanesulfonyloxy-phenyl)-acetic acid ethyl ester (108 g, 0.26 mol), 4-(trifluoromethyl)phenylboronic acid (55.6 g, 0.29 mol), 1,2-dimethoxyethane (1.1 L) and aqueous Na2CO3 (2 M, 129 mL, 0.26 mol) was mechanically stirred while purging N2 at room temperature for 10 min. To this system was added Pd(Ph3)4 (480 mg, 0.42 mmol) and heated to reflux (95° C.) for 2.5 h. The red-brown mixture was diluted with EtOAc (0.5 L) and washed with saturated aqueous NaHCO3 solution (3×200 mL) and brine (2×200 mL). The organic fraction was dried (Na2SO4) and concentrated in vacuo. The crude mixture was purified by ISCO column chromatography to obtain (5-benzyloxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid ethyl ester (107 g, 100%).

reactant | (3-benzyloxy-5-trifluoromethanesulfonyloxy-phenyl)-acetic acid ethyl ester | 0.26 mol, 108 g | C(C)OC(CC1=CC(=CC(=C1)OS(=O)(=O)C(F)(F)F)OCC1=CC=CC=C1)=O | C18H17F3O6S
reactant | 4-(trifluoromethyl)phenylboronic acid | 0.29 mol, 55.6 g | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | 1,2-dimethoxyethane | 1.1 L | COCCOC | C4H10O2
reactant | Na2CO3 | 0.26 mol, 2 M, 129 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | EtOAc | 0.5 L | CCOC(=O)C | C4H8O2
product | (5-benzyloxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid ethyl ester | 107 g, 100% | C(C)OC(CC=1C=C(C=C(C1)OCC1=CC=CC=C1)C1=CC=C(C=C1)C(F)(F)F)=O | C24H21F3O3
